US07432289B2
2-(Cyclobutylamino)-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) and cyclobutylamine (1 ml) in DMSO (1 ml) was heated at 140° C. for 72 h in a sealed tube. The reaction was concentrated under vacuum, the residue purified by preparative HPLC, to give, after evaporation of the solvents under vacuum 2-(cyclobutylamino)-N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide. NMR; δH [2H6]—DMSO 10.27,(1H, s), 8.62,(1H, t), 8.08,(1H, d), 7.93,(2H, d), 7.70-7.65,(2H, m), 7.43,(2H, d), 7.28,(1H, d), 7.06,(1H, d), 6.90,(1H, d), 6.81,(1H, s), 4.30,(1H, m), 3.16,(2H, t), 2.26,(2H, m), 2.20,(3H, s), 1.87,(2H, m), 1.67,(2H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.82 min, MH+455.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | cyclobutylamine | 1 ml | C1(CCC1)N | C4H9N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 2-(Cyclobutylamino)-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | C1(CCC1)NC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C28H30N4O2
